US06066638
Step A: Preparation of 2-amino-5-bromo-3-pyridinecarboxylic acid hydrobromide
A mixture of 3.6 g 2-amino-nicotinic acid in 450 mL of glacial acetic acid was treated with a solution of 4 mL of bromine in 50 mL of glacial acetic acid over 10-15 min. The resulting mixture was stirred at room temperature for 2 h, diluted with 2 L of diethyl ether, and the ensuing precipitate was filtered and dried to provide 6.1 g of the title compound of Step A as a solid melting at 280° C. (decompose) (lit1. m.p. 280° C., decomposed). 1H NMR (400 MHz, Me2SO-d6): δ 7.38 (br s,2H), 8.08 (s,1H), 8.25 (s,1H), 13.45 (br s,1H). (1U.S. Pat. No. 3,950,160)

reactant | 2-amino-nicotinic acid | 3.6 g | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | bromine | 4 mL | BrBr | Br2
solvent | acetic acid | 450 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | diethyl ether | 2 L | C(C)OCC | C4H10O
product | 2-amino-5-bromo-3-pyridinecarboxylic acid hydrobromide | 6.1 g | Br.NC1=NC=C(C=C1C(=O)O)Br | InChI=1S/C6H5BrN2O2.BrH/c7-3-1-4(6(10)11)5(8)9-2-3;/h1-2H,(H2,8,9)(H,10,11);1H
